US08912186B2
By a procedure similar to that of example 1.4, starting from commercial 4,5-difluoro-1,2-phenylenediamine and 3-(4-chlorophenyl)glutaric anhydride, 3-(4-chlorophenyl)-4-(5,6-difluoro-2-benzimidazolyl)butanoic acid•HCl was obtained as light greyish solid.

reactant | 4,5-difluoro-1,2-phenylenediamine | FC1=CC(=C(C=C1F)N)N | C6H6F2N2
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 3-(4-chlorophenyl)-4-(5,6-difluoro-2-benzimidazolyl)butanoic acid•HCl | ClC1=CC=C(C=C1)C(CC(=O)O)CC=1NC2=C(N1)C=C(C(=C2)F)F.Cl | InChI=1S/C17H13ClF2N2O2.ClH/c18-11-3-1-9(2-4-11)10(6-17(23)24)5-16-21-14-7-12(19)13(20)8-15(14)22-16;/h1-4,7-8,10H,5-6H2,(H,21,22)(H,23,24);1H
